US04472381
Dibenzylphosphoryl-L-alanyl-L-proline (1.4 g, 3.2 m mole), HOBt (476 mg, 3.5 m mole) and oily D-proline benzylester hydrochloride (968 mg, 4 m mole) were dissolved in DMF (5 ml) and WSC (0.64 ml, 3.5 m mole) were added thereto while cooling to -15° C. The reaction was carried out for 3 hours under cooling and then overnight at room temperature, and ethyl acetate (100 ml) was added to the reaction solution. The mixture was washed with 1N hydrochloric acid, 5% sodium bicarbonate and water in order, and then dried with anhydrous sodium sulfate. The solution was distilled under reduced pressure leaving an oily dibenzylphosphoryl-L-alanyl-L-prolyl-D-proline benzylester material.

reactant | Dibenzylphosphoryl-L-alanyl-L-proline | 1.4 g | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C22H27N2O4P
reactant | HOBt | 476 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | D-proline benzylester hydrochloride | 968 mg | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | WSC | 0.64 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | dibenzylphosphoryl-L-alanyl-L-prolyl-D-proline benzylester | C(C1=CC=CC=C1)OC([C@@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NP(=O)(CC1=CC=CC=C1)CC1=CC=CC=C1)C)=O)=O)=O | C34H40N3O5P
